US06288061B1
tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate (3.0 g) and 4-nitrobenzylamine (2.2 g) were dissolved in toluene (40 ml), and the mixture was reacted and treated in the same manner as in Starting Material Synthetic Example 10 to give tert-butyl 2-(4-nitrophenyl)-5-(4-pyridyl)imidazole-4-carboxylate (0.7 g), melting point not less than 280° C.

reactant | tert-Butyl 2-hydroxyimino-3-oxo-3-(4-pyridyl)propionate | 3.0 g | ON=C(C(=O)OC(C)(C)C)C(C1=CC=NC=C1)=O | C12H14N2O4
reactant | 4-nitrobenzylamine | 2.2 g | [N+](=O)([O-])C1=CC=C(CN)C=C1 | C7H8N2O2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 2-(4-nitrophenyl)-5-(4-pyridyl)imidazole-4-carboxylate | 0.7 g | [N+](=O)([O-])C1=CC=C(C=C1)C=1NC(=C(N1)C(=O)OC(C)(C)C)C1=CC=NC=C1 | C19H18N4O4
